US08975264B2
Step 3: Preparation of 5-chloro-7-(3,5-difluorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidine (Chemical Formula 38)
5-Chloro-7-(3,5-difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidine (327 mg) is dissolved in CH2Cl2 (50 mL). N-Iodosuccinimide (NIS, 304 mg) is added to the reaction solution. The reaction mixture is stirred at room temperature for about 16 hours. The reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with 1 M NaHCO3 aqueous solution and brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and purified by column chromatography to yield the target compound (301 mg).

reactant | 5-Chloro-7-(3,5-difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidine | 327 mg | ClC1=NC=2N(C(=C1)C1=CC(=CC(=C1)F)F)N=C(C2)C | C13H8ClF2N3
reactant | N-Iodosuccinimide | 304 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-7-(3,5-difluorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidine | 301 mg | ClC1=NC=2N(C(=C1)C1=CC(=CC(=C1)F)F)N=C(C2I)C | C13H7ClF2IN3
